US04686292
To a solution of 2.48 g of ethyl 3-hydroxy-1,4-dihydro1,4-dioxo-2-naphthoate and 1.5 ml of triethylamine in 10 ml of dry tetrahydrofuran was added dropwise 1 ml of ethyl chloroformate at 5° C. or below, and the mixture was stirred at room temperature for 2 hours. The resulting solid was removed by filtration, and the filtrate was evaporated to dryness to give crude ethyl 3-ethoxycarbonyloxy-1,4-dihydro-1,4-dioxo-2-naphthoate.

reactant | ethyl 3-hydroxy-1,4-dihydro1,4-dioxo-2-naphthoate | 2.48 g | OC1=C(C(C2=CC=CC=C2C1=O)=O)C(=O)OCC | C13H10O5
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 3-ethoxycarbonyloxy-1,4-dihydro-1,4-dioxo-2-naphthoate | C(C)OC(=O)OC1=C(C(C2=CC=CC=C2C1=O)=O)C(=O)OCC | C16H14O7
